US04451474
Preparation of 5-p-t-butylphenoxy-1-pentanol
The 5-(p-tert-butylphenoxy)-1-pentene (10.5 g) was treated with 115 ml 0.5 M 9-borabicyclononane in tetrahydrofuran and the reaction mixture was stirred at reflux for one hour. The solution was cooled to room temperature and treated with 25 ml 3 N sodium hydroxide, then 10 ml 30% hydrogen peroxide. After the bubbling ceased the reaction mixture was partitioned between 150 ml ether-150 ml water. The ether layer was removed, dried (MgSO4), and evaporated to a yellow oil which was chromatographed through 300 g, 90 to 200 mesh silica gel (2% MeOH/CH2Cl2 eluent) yielding a yellow oil which was vacuum distilled (126° C./0.75 mm) to a clear, colorless oil, 5-p-t-butylphenoxy-1-pentanol, 1.7 g.

reactant | 5-(p-tert-butylphenoxy)-1-pentene | 10.5 g | C(C)(C)(C)C1=CC=C(OCCCC=C)C=C1 | C15H22O
reactant | 9-borabicyclononane | 0.5 M, 115 ml | C1(CCCCCCCB1)C1CCCCCCCC1 | C17H33B
reactant | sodium hydroxide | 3 N, 25 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 10 ml | OO | H2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-p-t-butylphenoxy-1-pentanol | C(C)(C)(C)C1=CC=C(OCCCCCO)C=C1 | C15H24O2
